US07795437B2
26.3 Trans(4-{2-[4-(2-Cyano-4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester
The title compound was prepared analogously to example 1 (1.3) starting from 5-Fluoro-2-(piperidin-4-yloxy)-benzonitrile; hydrochloride and Trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester with sodium triacetoxyborohydride in 1,2-dichloroetane. MS (m/e): 446.3 (M+H+)

reactant | 5-Fluoro-2-(piperidin-4-yloxy)-benzonitrile | FC=1C=CC(=C(C#N)C1)OC1CCNCC1 | C12H13FN2O
reactant | hydrochloride | Cl | ClH
reactant | Trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroetane | ClCCCl | C2H4Cl2
product | Trans(4-{2-[4-(2-Cyano-4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)OC1=C(C=C(C=C1)F)C#N)=O | C25H36FN3O3
